US06136800
A solution of 5 g of 17-difluoromethylene-3-methoxy-18-methyl-estra-1,3,5(10)-triene in 95 ml of toluene is refluxed with 95 ml of a 1.6 M diisobutylaluminum hydride solution in toluene for 3 hours at a bath temperature of 140° C. Then, it is cooled to room temperature, slowly added to 200 g of ice, mixed with 400 ml of 1 M sulfuric acid, stirred for 1 hour at room temperature, extracted three times with ethyl acetate, the organic phases are washed with water as well as with saturated sodium chloride solution, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with hexane/ethyl acetate. 4.5 g of 17-difluoromethylene-18-methyl-estra-1,3,5(10)-trien-3-ol is obtained as colorless crystals with a melting point of 120-121° C., [α]D22 =+37.8° (c=0.5% in pyridine).

reactant | 17-difluoromethylene-3-methoxy-18-methyl-estra-1,3,5(10)-triene | 5 g | FC(=C1[C@]2(CC)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)F | C21H26F2O
reactant | diisobutylaluminum hydride | 1.6 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sulfuric acid | 1 M, 400 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 95 ml | C1(=CC=CC=C1)C | C7H8
product | 17-difluoromethylene-18-methyl-estra-1,3,5(10)-trien-3-ol | 4.5 g | FC(=C1[C@]2(CC)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O)F | C20H24F2O
